US04689069
2-[[(4-Ethynyl-6-methylpyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester
In a dry flask under a nitrogen atmosphere was mixed 0.24 g of 2-amino-4-ethenyl-6-methylpyrimidine, 0.61 g of 2-carbomethoxybenzenesulfonylisocyanate and 25 ml of dry dichloromethane. The solution was heated to reflux for five minutes and allowed to stir at room temperature overnight. A precipitate formed. The reaction mixture was stripped, titurated with butyl chloride to give 0.56 g of the title compound as a solid, m.p. 185°-190° (dec); IR(nujol) 2111 (C≡C), 3250 (NH), 3321 (NH), 1716 (CO) and 1725 (CO) cm-1.

reactant | 2-amino-4-ethenyl-6-methylpyrimidine | 0.24 g | NC1=NC(=CC(=N1)C=C)C | C7H9N3
reactant | 2-carbomethoxybenzenesulfonylisocyanate | 0.61 g | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | butyl chloride | C(CCC)Cl | C4H9Cl
product | 2-[[(4-Ethynyl-6-methylpyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester | 0.56 g | C(#C)C1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C16H14N4O5S
